US07678156B2
1.2.2 Synthesis of 1,2-dihydro-1-(3-hydroxypropyl)-3,4,6-trimethyl-2-oxopyrimidinium bromide
A mixture of 10.0 g (0.072 mol) of 1,4,6-trimethylpyrimidin-2(1H)-one and 20.6 g (0.144 mol) of 3-bromopropanol was heated under reflux in acetonitrile for 16 hours under an inert gas atmosphere. After cooling, a pale pink-colored solid precipitated out, which was filtered off with suction (starting material). The filtrate was admixed with chloroform, then the same amount of diethyl ether was added. The product separated out in the form of an oil.

reactant | 1,4,6-trimethylpyrimidin-2(1H)-one | 0.072 mol, 10.0 g | CN1C(N=C(C=C1C)C)=O | C7H10N2O
reactant | 3-bromopropanol | 0.144 mol, 20.6 g | BrCCCO | C3H7BrO
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,2-dihydro-1-(3-hydroxypropyl)-3,4,6-trimethyl-2-oxopyrimidinium bromide | [Br-].OCCC[NH+]1C(N(C(C=C1C)C)C)=O | InChI=1S/C10H18N2O2.BrH/c1-8-7-9(2)12(5-4-6-13)10(14)11(8)3;/h7-8,13H,4-6H2,1-3H3;1H
